### PR TITLE
[Merged by Bors] - perf: fix some slow declarations

### PR DESCRIPTION
**Pull request by JovanGerb**
This PR fixes some slow declarations, by
- changing the proof slightly so that unification is happier
- giving more arguments in a `rw` theorem
- replacing a slow `set` with `let`.
- explicitly supplying an autoparam proof, or adding the result to the context to help the autoparam.
- fixing a type so that a slow `erw` can become a less slow `rw`.
- replacing `‹Ring R›` with `(‹Ring R›:)`, which forces the expression to be fully elaborated immediately, instead of temporarily turning into a synthetic metavariable.
- reordering the instances in a spread construction of an instance (so that the ancestor that is represented as a subobject field comes first). See also #21030 for another example of this.

To find most of these, I took a look at the declarations that use at least 100000 heartbeats (i.e. at least half of the default maximum). 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by JovanGerb** [comment]
!bench

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean [hunk 1]
```diff
@@ -399,14 +399,15 @@ lemma norm_le_norm_of_nonneg_of_le {a b : A} (ha : 0 ≤ a := by cfc_tac) (hab :
     simpa only [ge_iff_le, Unitization.norm_inr] using
       this a b (by simpa) (by rwa [Unitization.inr_le_iff a b])
   intro a b ha hab
-  have hb_nonneg : 0 ≤ b := ha.trans hab
-  have : 0 ≤ a := by cfc_tac
+  have hb : 0 ≤ b := ha.trans hab
+  -- these rwo `have`s are just for performance
+  have := IsSelfAdjoint.of_nonneg ha; have := IsSelfAdjoint.of_nonneg hb
```
Comment (adomani) [inline Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:404]:
```suggestion
  -- these two `have`s are just for performance
  have hb : 0 ≤ b := ha.trans hab
  have := IsSelfAdjoint.of_nonneg ha; have := IsSelfAdjoint.of_nonneg hb
```
maybe?

File: Mathlib/MeasureTheory/Function/Jacobian.lean [hunk 2]
```diff
@@ -920,8 +921,9 @@ theorem lintegral_abs_det_fderiv_le_addHaar_image_aux1 (hs : MeasurableSet s)
             ∀ (t : Set E) (g : E → E), ApproximatesLinearOn g A t δ →
               ENNReal.ofReal |A.det| * μ t ≤ μ (g '' t) + ε * μ t := by
     intro A
-    obtain ⟨δ', δ'pos, hδ'⟩ : ∃ (δ' : ℝ), 0 < δ' ∧ ∀ B, dist B A < δ' → dist B.det A.det < ↑ε :=
-      continuousAt_iff.1 (ContinuousLinearMap.continuous_det (E := E)).continuousAt ε εpos
+    obtain ⟨δ', δ'pos, hδ'⟩ : ∃ (δ' : ℝ), 0 < δ' ∧ ∀ B, dist B A < δ' → dist B.det A.det < ↑ε := by
+      refine continuousAt_iff.1 ?_ ε εpos
+      exact (ContinuousLinearMap.continuous_det).continuousAt
```
Comment (adomani) [inline Mathlib/MeasureTheory/Function/Jacobian.lean:926]:
```suggestion
      exact ContinuousLinearMap.continuous_det.continuousAt
```
does this work?

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean:404]: without this line the have hb auto params don't all work anymore.

File: Mathlib/MeasureTheory/Function/Jacobian.lean (hunk 2 above)
Comment (JovanGerb) [reply Mathlib/MeasureTheory/Function/Jacobian.lean]: Yes

File: Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean (hunk 1 above)
Comment (adomani) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean]: Sorry if this was unclear: I did not suggest to remove the lines, I simply moved the comment one line up and replaced the `rwo` with `two`.  The diff is hard to parse, though, I agree!

Comment (JovanGerb) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean]: Yes, I fixed the typo, but I think the comment is in the correct line, as it only refers to `have := IsSelfAdjoint.of_nonneg ha; have := IsSelfAdjoint.of_nonneg hb`

Comment (JovanGerb) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean]: If the comment isn't clear feel free to suggest a change

Comment (adomani) [reply Mathlib/Analysis/CStarAlgebra/ContinuousFunctionalCalculus/Order.lean]: The comment is clear.  When I read the diff first, I had missed the two `have`s on the same line and thought that the comment referred to the "unique" `have` that I saw after your comment and the one above it.

File: Mathlib/Probability/Kernel/Disintegration/Density.lean [hunk 3]
```diff
@@ -131,15 +131,16 @@ lemma measurable_densityProcess (κ : Kernel α (γ × β)) (ν : Kernel α γ)
     Measurable (fun (p : α × γ) ↦ densityProcess κ ν n p.1 p.2 s) :=
   (measurable_densityProcess_aux κ ν n hs).ennreal_toReal
 
+-- The following two lemmas also work without the `( :)`, but it's slow
```
Comment (adomani) [inline Mathlib/Probability/Kernel/Disintegration/Density.lean:134]:
```suggestion
-- The following two lemmas also work without the `( :)`, but they are slow.
```
Just a typo.

**Comment by adomani** [comment]
This looks good to me.  I'll ping @mattrobball and @eric-wieser who have a better understanding of performance issues than I do.

**Review by mattrobball — APPROVED** [review]
I think this looks good to me. 

It would be useful to collect the underlying reasons as much as they are understood but I don't know where this would be done.

**Comment by adomani** [comment]
Maybe a library note?  Or a wiki page?

**Comment by JovanGerb** [comment]
I'd be happy to expand a bit on the bullet points that I wrote in the PR title. Are you thinking of making it a guide on techniques for optimize proofs?

**Comment by mattrobball** [comment]
Speaking more personally, I'd be happy with a Zulip topic where people explain the underlying problems, ideally pointing out the lines in the core if possible. 

But this is only a thought and not a request. 

bors merge
